US06046195
a) 2-Bromo-4-methoxyaniline
To a solution of p-anisidine (10 g, 0.08 mol) and sodium carbonate (17.2 g, 0.16 mol) in dichloromethane (400 ml) was added a solution of bromine (3.8 ml), 0.072 mol) in dichloromethane (200 ml) dropwise. The reaction was stirred at ambient temperature for 45 minutes, diluted with dichloromethane (200 ml) and washed with water (2×200 ml). The organic layer was dried over magnesium sulphate, and the solvent was removed in vacuo to yield a dark brown oil. Chromatography on silica eluting with a gradient of ethyl acetate in hexane (10%, 15% and 20%) afforded the title compound as a dark red oil (4 g, 25%), m/z (ES+) 202 (M30 +H, 100%). 1H NMR (250 MHz, CDCl3) δ 3.73 (3H, s), 3.78 (2H, broad s), 6.72 (2H, t, J 1.2 Hz), 7.00 (1H, q, J 1.26 Hz).

reactant | p-anisidine | 0.08 mol, 10 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | sodium carbonate | 0.16 mol, 17.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | bromine | 3.8 ml | BrBr | Br2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 2-Bromo-4-methoxyaniline | 4 g, 25% | BrC1=C(N)C=CC(=C1)OC | C7H8BrNO
